US05028610
A mixture of 300 mg of 1-[bis(4-fluorophenyl)methyl]piperazine and 234 mg of N-(3-fluorophenyl)chloroacetamide was dissolved in 20 ml of a 1:1 by volume mixture of tetrahydrofuran and N,N-dimethylformamide, and 400 mg of anhydrous potassium carbonate were added to the solution. The reaction mixture was then stirred at 70° C. for 2 hours, after which ethyl acetate was added to it and the organic layer was separated. The organic layer was washed three times with water, and then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation under reduced pressure. The residue was subjected to silica gel thin layer chromatography using a 2:1 by volume mixture of cyclohexane and ethyl acetate as the developing solvent, to give a purified 1-[bis(4-fluorophenyl)methyl]-4-(3-fluorophenylcarbamoylmethyl)piperazine.

reactant | 1-[bis(4-fluorophenyl)methyl]piperazine | 300 mg | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | N-(3-fluorophenyl)chloroacetamide | 234 mg | FC=1C=C(C=CC1)NC(CCl)=O | C8H7ClFNO
reactant | potassium carbonate | 400 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[bis(4-fluorophenyl)methyl]-4-(3-fluorophenylcarbamoylmethyl)piperazine | FC1=CC=C(C=C1)C(N1CCN(CC1)CC(NC1=CC(=CC=C1)F)=O)C1=CC=C(C=C1)F | C25H24F3N3O
